US08283354B2
To tert-Butyl-((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (700 mg, 1.56 mmol) was added 20 mL CH2Cl2 followed by addition of 7 mL of TFA. After the reaction was stirred for 1 hour it was neutralized with a 1.0 M aqueous NaOH solution. The mixture was partitioned between H2O and CH2Cl2, and separated, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated to yield 2-(4-((S)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol (400 mg, 74%). LC/MS: m/z 349.3 (M+H)+ at 1.52 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | tert-Butyl-((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 1.56 mmol, 700 mg | C(C)(C)(C)OC(NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C26H32N4O3
reactant | TFA | 7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 1.0 M | [OH-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((S)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol | 400 mg, 74% | NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C21H24N4O
